US07378448B2
Metachloroperbenzoic acid (0.23 g) was added to a solution of 1-{4-[4-(2-benzylamino-ethyl)-phenoxy]-phenyl}-ethanone (0.36 g) in chloroform (25 mL) while stirring at room temperature. Stirring was continued overnight then the reaction was diluted with dichloromethane, washed with saturated aqueous sodium thiosulfate, dried over sodium chloride/magnesium sulfate, filtered, and concentrated on a rotary evaporator. The residue was diluted with methanol (5 mL) and saturated aqueous sodium bicarbonate (5 mL) then stirred overnight at room temperature. The methanol was removed on a rotary evaporator and the pH of the residue was adjusted to 7-8 then extracted with dichloromethane (3×30 mL). The combined dichloromethane extracts were dried over sodium chloride/magnesium sulfate, filtered, and concentrated on a rotary evaporator to yield 0.4 g of crude product, which was purified by flash column chromatography on silica gel eluting with ethanol in dichloromethane to yield Acetic acid 4-[4-(2-benzylamino-ethyl)-phenoxy]-phenyl ester (117 mg), 1H NMR (CDCl3, 300.00 MHz): 8.01-7.93 (m, 2H), 7.42-7.21 (m, 7H), 7.06-6.97 (m, 4H), 3.87 (s, 2H), 3.02-2.94 (m, 4H), 2.61 (s, 3H); m/z=361.85(M+1).

reactant | Metachloroperbenzoic acid | 0.23 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 1-{4-[4-(2-benzylamino-ethyl)-phenoxy]-phenyl}-ethanone | 0.36 g | C(C1=CC=CC=C1)NCCC1=CC=C(OC2=CC=C(C=C2)C(C)=O)C=C1 | C23H23NO2
solvent | chloroform | 25 mL | C(Cl)(Cl)Cl | CHCl3
solvent | dichloromethane | ClCCl | CH2Cl2
product | Acetic acid 4-[4-(2-benzylamino-ethyl)-phenoxy]-phenyl ester | 117 mg | C(C1=CC=CC=C1)NCCC1=CC=C(OC2=CC=C(C=C2)OC(C)=O)C=C1 | C23H23NO3
